* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0007777320189567885
Fd1_1 0 s1 V1 -0.038886600947839425
Gr1_1_1 0 s1 x1_a1 0 474745566758.00366
Gr2_1_1 0 s1 x2_a1 0 -161307020943.5286
Gr3_1_1 0 s1 x3_a1 0 -2057731978515.2673
Gr4_re_1_1 0 s1 x4_re_a1 0 1981651768.4867857
Gr4_im_1_1 0 s1 x4_im_a1 0 1667322509.5625017
Gr5_re_1_1 0 s1 x5_re_a1 0 -3973857625686.674
Gr5_im_1_1 0 s1 x5_im_a1 0 -9013864374457.19
Gr6_re_1_1 0 s1 x6_re_a1 0 85126842365945.61
Gr6_im_1_1 0 s1 x6_im_a1 0 3682232297097561.5
Gr7_1_1 0 s1 x7_a1 0 8.790576842956352e+16
Gr8_re_1_1 0 s1 x8_re_a1 0 -2.691690658000022e+17
Gr8_im_1_1 0 s1 x8_im_a1 0 7.364161533191288e+17
Gr9_re_1_1 0 s1 x9_re_a1 0 2.684446134607574e+18
Gr9_im_1_1 0 s1 x9_im_a1 0 -3.7375830696565514e+18
Gr10_re_1_1 0 s1 x10_re_a1 0 -5.722023604566456e+18
Gr10_im_1_1 0 s1 x10_im_a1 0 8.591495761975163e+18
Gr11_re_1_1 0 s1 x11_re_a1 0 2.7615795299567785e+18
Gr11_im_1_1 0 s1 x11_im_a1 0 -5.633002087601002e+18
Gr12_re_1_1 0 s1 x12_re_a1 0 1.3192042943993638e+18
Gr12_im_1_1 0 s1 x12_im_a1 0 3.8184849847801e+17
Gr13_re_1_1 0 s1 x13_re_a1 0 5.216615789571027e+18
Gr13_im_1_1 0 s1 x13_im_a1 0 -8.640210733981834e+18
Gr14_re_1_1 0 s1 x14_re_a1 0 -1.5402639351710681e+19
Gr14_im_1_1 0 s1 x14_im_a1 0 1.768166100392564e+19
Gr15_re_1_1 0 s1 x15_re_a1 0 4.538524070804998e+18
Gr15_im_1_1 0 s1 x15_im_a1 0 -3.1723618952876355e+18
Gr16_re_1_1 0 s1 x16_re_a1 0 3.422969941791001e+18
Gr16_im_1_1 0 s1 x16_im_a1 0 -3.215039532736687e+18
Gr17_re_1_1 0 s1 x17_re_a1 0 1.2258938264111151e+19
Gr17_im_1_1 0 s1 x17_im_a1 0 -7.111179311939312e+18
Gr18_re_1_1 0 s1 x18_re_a1 0 -1.0852479153641654e+19
Gr18_im_1_1 0 s1 x18_im_a1 0 3.177102451307006e+18
Gr19_1_1 0 s1 x19_a1 0 -13.789504376570978
Gr20_re_1_1 0 s1 x20_re_a1 0 -25.14701781289079
Gr20_im_1_1 0 s1 x20_im_a1 0 19.07387548918321
Gr21_1_1 0 s1 x21_a1 0 -26.66166326676783
Gd1_2 0 s1 p2 0 -0.0008201304663872698
Fd1_2 0 s1 V2 -0.04100652331936349
Gr1_1_2 0 s1 x1_a2 0 -11625431027.163422
Gr2_1_2 0 s1 x2_a2 0 101789538193.69481
Gr3_1_2 0 s1 x3_a2 0 -518686195892.3788
Gr4_re_1_2 0 s1 x4_re_a2 0 -1245564537.512188
Gr4_im_1_2 0 s1 x4_im_a2 0 4702095722.040721
Gr5_re_1_2 0 s1 x5_re_a2 0 -933380615798.0575
Gr5_im_1_2 0 s1 x5_im_a2 0 -2064224930005.4958
Gr6_re_1_2 0 s1 x6_re_a2 0 25871040225962.297
Gr6_im_1_2 0 s1 x6_im_a2 0 847857397337282.1
Gr7_1_2 0 s1 x7_a2 0 2.0442289364242084e+16
Gr8_re_1_2 0 s1 x8_re_a2 0 -6.114183875686977e+16
Gr8_im_1_2 0 s1 x8_im_a2 0 1.7009544382338048e+17
Gr9_re_1_2 0 s1 x9_re_a2 0 6.1486051014598e+17
Gr9_im_1_2 0 s1 x9_im_a2 0 -8.647661436222341e+17
Gr10_re_1_2 0 s1 x10_re_a2 0 -1.3120235786784013e+18
Gr10_im_1_2 0 s1 x10_im_a2 0 1.9872761767925714e+18
Gr11_re_1_2 0 s1 x11_re_a2 0 6.347824674263858e+17
Gr11_im_1_2 0 s1 x11_im_a2 0 -1.3025280890279107e+18
Gr12_re_1_2 0 s1 x12_re_a2 0 3.0324194152391277e+17
Gr12_im_1_2 0 s1 x12_im_a2 0 8.744966512045197e+16
Gr13_re_1_2 0 s1 x13_re_a2 0 1.1973812798669786e+18
Gr13_im_1_2 0 s1 x13_im_a2 0 -1.997550449075695e+18
Gr14_re_1_2 0 s1 x14_re_a2 0 -3.5484666489732306e+18
Gr14_im_1_2 0 s1 x14_im_a2 0 4.0886554136997417e+18
Gr15_re_1_2 0 s1 x15_re_a2 0 1.0494012137427455e+18
Gr15_im_1_2 0 s1 x15_im_a2 0 -7.322195213603771e+17
Gr16_re_1_2 0 s1 x16_re_a2 0 7.885522672580758e+17
Gr16_im_1_2 0 s1 x16_im_a2 0 -7.436370471590958e+17
Gr17_re_1_2 0 s1 x17_re_a2 0 2.83196593487856e+18
Gr17_im_1_2 0 s1 x17_im_a2 0 -1.640661873986161e+18
Gr18_re_1_2 0 s1 x18_re_a2 0 -2.5087994152932306e+18
Gr18_im_1_2 0 s1 x18_im_a2 0 7.268946953956224e+17
Gr19_1_2 0 s1 x19_a2 0 -4.348473315652766
Gr20_re_1_2 0 s1 x20_re_a2 0 -7.744779595847416
Gr20_im_1_2 0 s1 x20_im_a2 0 5.791611506444911
Gr21_1_2 0 s1 x21_a2 0 -8.41705999658814
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.085618966055419e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.1669742468420726e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.009449463028856e-12
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 2.5601141304011697e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 143834284083.43753
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -143834284083.43753
Rp4_im_im_a1 0 x4_im_a1 2.5601141304011697e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 4.106211633744798e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 59810159559.14454
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -59810159559.14454
Rp5_im_im_a1 0 x5_im_a1 4.106211633744798e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.820993305743248e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 50490288101.6534
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -50490288101.6534
Rp6_im_im_a1 0 x6_im_a1 1.820993305743248e-09
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 2.89900184873542e-11
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 5.904834681530284e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 41096713540.31413
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -41096713540.31413
Rp8_im_im_a1 0 x8_im_a1 5.904834681530284e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 8.705601803236e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 38561738343.768814
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -38561738343.768814
Rp9_im_im_a1 0 x9_im_a1 8.705601803236e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.2024945159716762e-09
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 35520178399.67871
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -35520178399.67871
Rp10_im_im_a1 0 x10_im_a1 1.2024945159716762e-09
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 8.262433494985822e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 32490626589.558243
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -32490626589.558243
Rp11_im_im_a1 0 x11_im_a1 8.262433494985822e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 2.6456386751712636e-09
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 31628909435.35422
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -31628909435.35422
Rp12_im_im_a1 0 x12_im_a1 2.6456386751712636e-09
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 1.2666939505014836e-08
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 26711896205.760902
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -26711896205.760902
Rp13_im_im_a1 0 x13_im_a1 1.2666939505014836e-08
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 1.6283400711593142e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 21811710329.525475
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -21811710329.525475
Rp14_im_im_a1 0 x14_im_a1 1.6283400711593142e-09
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 2.15312822826428e-09
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 18294519754.029957
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -18294519754.029957
Rp15_im_im_a1 0 x15_im_a1 2.15312822826428e-09
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 2.141591261444075e-08
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 16714901306.660326
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -16714901306.660326
Rp16_im_im_a1 0 x16_im_a1 2.141591261444075e-08
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 4.3775355943191796e-09
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 11249950795.393532
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -11249950795.393532
Rp17_im_im_a1 0 x17_im_a1 4.3775355943191796e-09
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 4.198994436203121e-09
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 6942409567.451322
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -6942409567.451322
Rp18_im_im_a1 0 x18_im_a1 4.198994436203121e-09
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 326150.12635070033
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 289195.20515858755
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 4.830922120123079e-06
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -4.830922120123079e-06
Rp20_im_im_a1 0 x20_im_a1 289195.20515858755
Cx21_a1 x21_a1 0 1.0
Gx21_a1 0 x21_a1 p1 0 0.07071067811865475
Fx21_a1 0 x21_a1 V1 3.5355339059327378
Rp21_a1 0 x21_a1 167989.9637179171
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0008201304663872698
Fd2_1 0 s2 V1 -0.04100652331936349
Gr1_2_1 0 s2 x1_a1 0 -11625431946.980864
Gr2_2_1 0 s2 x2_a1 0 101789543473.78702
Gr3_2_1 0 s2 x3_a1 0 -518686228604.33215
Gr4_re_2_1 0 s2 x4_re_a1 0 -1245565516.279283
Gr4_im_2_1 0 s2 x4_im_a1 0 4702095319.79365
Gr5_re_2_1 0 s2 x5_re_a1 0 -933380695137.646
Gr5_im_2_1 0 s2 x5_im_a1 0 -2064224941668.1514
Gr6_re_2_1 0 s2 x6_re_a1 0 25871060715803.62
Gr6_im_2_1 0 s2 x6_im_a1 0 847857413195759.4
Gr7_2_1 0 s2 x7_a1 0 2.04422901443881e+16
Gr8_re_2_1 0 s2 x8_re_a1 0 -6.114183696467522e+16
Gr8_im_2_1 0 s2 x8_im_a1 0 1.7009544814661274e+17
Gr9_re_2_1 0 s2 x9_re_a1 0 6.148605083490048e+17
Gr9_im_2_1 0 s2 x9_im_a1 0 -8.647661697148297e+17
Gr10_re_2_1 0 s2 x10_re_a1 0 -1.3120235784394248e+18
Gr10_im_2_1 0 s2 x10_im_a1 0 1.9872762327498273e+18
Gr11_re_2_1 0 s2 x11_re_a1 0 6.347824720149298e+17
Gr11_im_2_1 0 s2 x11_im_a1 0 -1.302528121820728e+18
Gr12_re_2_1 0 s2 x12_re_a1 0 3.0324194363697485e+17
Gr12_im_2_1 0 s2 x12_im_a1 0 8.744966357447211e+16
Gr13_re_2_1 0 s2 x13_re_a1 0 1.197381281670556e+18
Gr13_im_2_1 0 s2 x13_im_a1 0 -1.9975504998247608e+18
Gr14_re_2_1 0 s2 x14_re_a1 0 -3.5484666940738473e+18
Gr14_im_2_1 0 s2 x14_im_a1 0 4.088655515517482e+18
Gr15_re_2_1 0 s2 x15_re_a1 0 1.0494012383000556e+18
Gr15_im_2_1 0 s2 x15_im_a1 0 -7.322195341638396e+17
Gr16_re_2_1 0 s2 x16_re_a1 0 7.885522769778918e+17
Gr16_im_2_1 0 s2 x16_im_a1 0 -7.436370662669964e+17
Gr17_re_2_1 0 s2 x17_re_a1 0 2.831965993160443e+18
Gr17_im_2_1 0 s2 x17_im_a1 0 -1.6406619009709944e+18
Gr18_re_2_1 0 s2 x18_re_a1 0 -2.5087994719014723e+18
Gr18_im_2_1 0 s2 x18_im_a1 0 7.268946870676959e+17
Gr19_2_1 0 s2 x19_a1 0 -4.348477218236507
Gr20_re_2_1 0 s2 x20_re_a1 0 -7.744786102081257
Gr20_im_2_1 0 s2 x20_im_a1 0 5.791616168573276
Gr21_2_1 0 s2 x21_a1 0 -8.417067573112323
Gd2_2 0 s2 p2 0 -0.0007473308743936635
Fd2_2 0 s2 V2 -0.037366543719683176
Gr1_2_2 0 s2 x1_a2 0 818499732640.1168
Gr2_2_2 0 s2 x2_a2 0 -563190851719.4507
Gr3_2_2 0 s2 x3_a2 0 -212711847694.24152
Gr4_re_2_2 0 s2 x4_re_a2 0 9815909807.732075
Gr4_im_2_2 0 s2 x4_im_a2 0 -17192859521.864143
Gr5_re_2_2 0 s2 x5_re_a2 0 -219531761031.41168
Gr5_im_2_2 0 s2 x5_im_a2 0 -471475122187.5363
Gr6_re_2_2 0 s2 x6_re_a2 0 7652656966577.167
Gr6_im_2_2 0 s2 x6_im_a2 0 194850767697344.94
Gr7_2_2 0 s2 x7_a2 0 4750005239420292.0
Gr8_re_2_2 0 s2 x8_re_a2 0 -1.3818771231710522e+16
Gr8_im_2_2 0 s2 x8_im_a2 0 3.922748773464531e+16
Gr9_re_2_2 0 s2 x9_re_a2 0 1.4037134962628766e+17
Gr9_im_2_2 0 s2 x9_im_a2 0 -1.998258940706483e+17
Gr10_re_2_2 0 s2 x10_re_a2 0 -2.999060614865271e+17
Gr10_im_2_2 0 s2 x10_im_a2 0 4.5903075177602624e+17
Gr11_re_2_2 0 s2 x11_re_a2 0 1.4552598251023834e+17
Gr11_im_2_2 0 s2 x11_im_a2 0 -3.007128688946106e+17
Gr12_re_2_2 0 s2 x12_re_a2 0 6.952078830317814e+16
Gr12_im_2_2 0 s2 x12_im_a2 0 1.9943352602327004e+16
Gr13_re_2_2 0 s2 x13_re_a2 0 2.740111010761338e+17
Gr13_im_2_2 0 s2 x13_im_a2 0 -4.611019273492335e+17
Gr14_re_2_2 0 s2 x14_re_a2 0 -8.156053343579406e+17
Gr14_im_2_2 0 s2 x14_im_a2 0 9.439534938429253e+17
Gr15_re_2_2 0 s2 x15_re_a2 0 2.422364058168682e+17
Gr15_im_2_2 0 s2 x15_im_a2 0 -1.6866389509264858e+17
Gr16_re_2_2 0 s2 x16_re_a2 0 1.8123472883882906e+17
Gr16_im_2_2 0 s2 x16_im_a2 0 -1.7173907256048294e+17
Gr17_re_2_2 0 s2 x17_re_a2 0 6.530150109505588e+17
Gr17_im_2_2 0 s2 x17_im_a2 0 -3.7773843360226643e+17
Gr18_re_2_2 0 s2 x18_re_a2 0 -5.789675795427411e+17
Gr18_im_2_2 0 s2 x18_im_a2 0 1.6566683916916643e+17
Gr19_2_2 0 s2 x19_a2 0 -1.323304574402255
Gr20_re_2_2 0 s2 x20_re_a2 0 -2.319446653216256
Gr20_im_2_2 0 s2 x20_im_a2 0 1.7173913695059466
Gr21_2_2 0 s2 x21_a2 0 -2.5633325701253336
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.085618966055419e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.1669742468420726e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.009449463028856e-12
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 2.5601141304011697e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 143834284083.43753
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -143834284083.43753
Rp4_im_im_a2 0 x4_im_a2 2.5601141304011697e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 4.106211633744798e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 59810159559.14454
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -59810159559.14454
Rp5_im_im_a2 0 x5_im_a2 4.106211633744798e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.820993305743248e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 50490288101.6534
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -50490288101.6534
Rp6_im_im_a2 0 x6_im_a2 1.820993305743248e-09
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 2.89900184873542e-11
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 5.904834681530284e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 41096713540.31413
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -41096713540.31413
Rp8_im_im_a2 0 x8_im_a2 5.904834681530284e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 8.705601803236e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 38561738343.768814
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -38561738343.768814
Rp9_im_im_a2 0 x9_im_a2 8.705601803236e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.2024945159716762e-09
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 35520178399.67871
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -35520178399.67871
Rp10_im_im_a2 0 x10_im_a2 1.2024945159716762e-09
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 8.262433494985822e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 32490626589.558243
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -32490626589.558243
Rp11_im_im_a2 0 x11_im_a2 8.262433494985822e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 2.6456386751712636e-09
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 31628909435.35422
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -31628909435.35422
Rp12_im_im_a2 0 x12_im_a2 2.6456386751712636e-09
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 1.2666939505014836e-08
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 26711896205.760902
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -26711896205.760902
Rp13_im_im_a2 0 x13_im_a2 1.2666939505014836e-08
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 1.6283400711593142e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 21811710329.525475
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -21811710329.525475
Rp14_im_im_a2 0 x14_im_a2 1.6283400711593142e-09
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 2.15312822826428e-09
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 18294519754.029957
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -18294519754.029957
Rp15_im_im_a2 0 x15_im_a2 2.15312822826428e-09
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 2.141591261444075e-08
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 16714901306.660326
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -16714901306.660326
Rp16_im_im_a2 0 x16_im_a2 2.141591261444075e-08
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 4.3775355943191796e-09
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 11249950795.393532
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -11249950795.393532
Rp17_im_im_a2 0 x17_im_a2 4.3775355943191796e-09
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 4.198994436203121e-09
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 6942409567.451322
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -6942409567.451322
Rp18_im_im_a2 0 x18_im_a2 4.198994436203121e-09
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 326150.12635070033
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 289195.20515858755
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 4.830922120123079e-06
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -4.830922120123079e-06
Rp20_im_im_a2 0 x20_im_a2 289195.20515858755
Cx21_a2 x21_a2 0 1.0
Gx21_a2 0 x21_a2 p2 0 0.07071067811865475
Fx21_a2 0 x21_a2 V2 3.5355339059327378
Rp21_a2 0 x21_a2 167989.9637179171
.ENDS s_equivalent
